US07557110B2
To a stirred solution of 4-Allyl-3-hydroxy-piperidine-1-carboxylic acid benzyl ester (293 mg, 1.06 mmol) were added triphenyl phosphine(362 mg, 1.38 mmol), a solution of diethyl azodicarboxylate in toluene (0.6 ml, 1.38 immol; 40% solution) and DPPA (297 μL, 1.38 mmol). After stirring for 4 h, the mixture was evaporated and the residue was purified by column chromatography (15% AcOEt-hexane)to give 4-Allyl-3-azido-piperidine-1-carboxylic acid benzyl ester.

reactant | 4-Allyl-3-hydroxy-piperidine-1-carboxylic acid benzyl ester | 1.06 mmol, 293 mg | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)CC=C)O | C16H21NO3
reactant | triphenyl phosphine | 1.38 mmol, 362 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | DPPA | 1.38 mmol, 297 μL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 0.6 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Allyl-3-azido-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)CC=C)N=[N+]=[N-] | C16H20N4O2
